US08802864B2
b) 3-({4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-N,N-dimethyl-1-azetidinecarboxamide
In a round bottom flask under nitrogen at room temperature, a mixture of 5-(3-azetidinylmethyl)-4-[2-fluoro-4-(7-quinolinyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one (0.38 mmol) in dichloromethane (2 mL) was treated with N,N-diisopropylethylamine (0.77 mmol) by syringe and stirred for 2 min. The starting material did not dissolve. N-methyl-2-pyrrolidone (2 mL) was added to the mixture and some material dissolved. The mixture was heated with a heat gun to accelerate dissolution and was then left to cool to room temperature. Dimethylcarbamoyl chloride (0.38 mmol) was then added dropwise by syringe to the reaction, which was stirred for 1 h. The reaction mixture was concentrated to remove the dichloromethane. The resultant solution was directly purified by reverse phase HPLC (10-70% acetonitrile/water with 0.1% NH4OH) and subsequently purified by silica gel chromatography (0-3% methanol/ethyl acetate) to provide the title compound as a white solid (31 mg, 18%). MS(ES)+ m/e 447.2 [M+H]+.

reactant | 5-(3-azetidinylmethyl)-4-[2-fluoro-4-(7-quinolinyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.38 mmol | N1CC(C1)CC=1N(C(NN1)=O)C1=C(C=C(C=C1)C1=CC=C2C=CC=NC2=C1)F | C21H18FN5O
reactant | N,N-diisopropylethylamine | 0.77 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-methyl-2-pyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
reactant | Dimethylcarbamoyl chloride | 0.38 mmol | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-({4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-N,N-dimethyl-1-azetidinecarboxamide | 31 mg, 18% | FC1=C(C=CC(=C1)C1=CC=C2C=CC=NC2=C1)N1C(=NNC1=O)CC1CN(C1)C(=O)N(C)C | C24H23FN6O2
